US04652089
A mixture of 14.25 g of p-[4-(methoxymethylene)cyclohexyl]benzonitrile (purity 96.1%) and 200 ml of tetrahydrofuran/2N hydrochloric acid (vol. 4:1) was heated to reflux for 30 minutes. The reaction mixture was subsequently poured into 300 ml of water and extracted three times with 200 ml of diethyl ether each time. The organic phases were washed with 200 ml of water, dried over magnesium sulphate and concentrated. There were thus obtained 13.75 g (103%) of crude product of 4-(p-cyanophenyl)cyclohexanecarboxaldehyde (trans/cis ratio about 3:1) as a colourless, slowly crystallizing oil. Recrystallization of this material from 1.3 l of hexane gave 3.71 g (29%) of trans-4-(p-cyanophenyl)cyclohexanecarboxaldehyde (purity 99.5%) as long, colourless needles of m.p. 57.1° C. The mother liquor was concentrated to a volume of 1 l and again set aside for crystallization, there being obtained as the second crystallizate 1.20 g of colourless needles containing 97% of trans-aldehyde and 3 % of cis-aldehyde. The separated mother liquor was now concentrated, the residue was again heated to reflux for 30 minutes in 100 ml of tetrahydrofuran/2N hydrochloric acid (vol. 4:1) and the mixture was then worked-up in the same manner as on the first occasion. The crude product obtained was combined with the second crystallizate (1.2 g) and recrystallized from 900 ml of hexane, whereby 3.56 g (28%) of trans-4-(p-cyanophenyl)cyclohexanecarboxaldehyde (purity 99.7%) could again be isolated as long, colourless needles. The mother liquor (containing 4.2 g of crude product) was no longer worked-up. Total yield after two cycles: 7.27 g (57%) of trans-4-(p-cyanophenyl)cyclohexanecarboxaldehyde; m.p. 57.1° C.

reactant | p-[4-(methoxymethylene)cyclohexyl]benzonitrile | 14.25 g | COC=C1CCC(CC1)C1=CC=C(C#N)C=C1 | C15H17NO
reactant | tetrahydrofuran | 2N, 200 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | trans-4-(p-cyanophenyl)cyclohexanecarboxaldehyde | 3.71 g, 29% | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C14H15NO
